data/pmechdb/original/mc_train_fold0/raw/train.txt
CC[NH:10]CC.C[C:20](=[OH+:21])N>>CC[NH+:10](CC)[C:20](C)(N)[OH:21] 10=20;20,21=21
CC(=O)OCC[Si:20](C)(C)C.C[Si-:11](C)(C)(F)[F:10].O>>CC(=O)OCC[Si-:20](C)(C)(C)[F:10].C[Si:11](C)(C)F.O 10,11=10,20
[H:20][CH:21]1C2C3CC4=C5C2(CCN3)C(C([CH:22]1[Br:23])(OC)OC)OC5=C(C=C4)OC.CC(C)(C)[O-:10].CS(=O)C.[K+]>>[H:20][O:10]C(C)(C)C.COC1=C2C3=C(CC4C5C3(CCN4)C(O2)C([CH:22]=[CH:21]5)(OC)OC)C=C1.[Br-:23].CS(=O)C.[K+] 10=20;22,23=23;20,21=21,22
[H:20][Cl:21].CC1(CC[CH:10]=[C:11]1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1CCC([C+:11]1C2=CC=CC=C2)(C)C3=CC=CC=C3.[Cl-:21] 10,11=10,20;20,21=21
CC(C(=O)NC(CCO)C(=O)OCC1=CC=C(C=C1)OC)[NH2:10].C1CC(=O)N(C1=O)O[C:20](=[O:21])OCC2C3=C(C=CC=C3)C4=C2C=CC=C4>>CC(C(=O)NC(CCO)C(=O)OCC1=CC=C(C=C1)OC)[NH2+:10][C:20]([O-:21])(OCC2C3=C(C=CC=C3)C4=C2C=CC=C4)ON5C(=O)CCC5=O 10=20;20,21=21
CC[O:21][C:20](CCC(=O)N(C)C)(NC)[O-:10]>>CC[O-:21].CN[C:20](=[O:10])CCC(=O)N(C)C 10=20;20,21=21
[H:20][NH+:21](C1(C2C(C=CC(C2CCCC#N)O1)CC)[O-])N.N[NH2:10]>>[H:20][NH2+:10]N.CCC1C=CC2C(C1C(O2)([NH:21]N)[O-])CCCC#N 10=20;20,21=21
C[C:20](=[O:21])CC=C(C)[NH:10]C1=CC(=CC=C1)[N+](=O)[O-].CC1=CC=C(C=C1)S(=O)(=O)[O-].[OH3+]>>CC1=CC[C:20]([NH+:10]1C2=CC(=CC=C2)[N+](=O)[O-])(C)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].[OH3+] 10=20;20,21=21
CC1=C[C:21]2(C[CH2:20]2)[CH:22]=[CH:23][C:24]1=[O+:25]C.C(=[O:10])O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC1=C[C:21](=[CH:22][CH:23]=[C:24]1[O:25]C)C[CH2:20][O+:10]=CO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][C:21]1(CC2=C(C1)C=CC=C2)[CH2:22][OH2+:23].CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.[CH2:22]=[C:21]1CC2=C(C1)C=CC=C2.[OH2:23] 10=20;22,23=23;20,21=21,22
[Li-:10](O)[OH+:11]C(C1=CC=CC=C1)C(C)N(C)C(=O)C(C)CC(C)C(COCC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C.[Li][NH+](C(C)C)C(C)C.CC(C)NC(C)C.[I-]>>[Li:10]O.CC(CC(C)C(=O)N(C)C(C)C(C1=CC=CC=C1)[OH:11])C(COCC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C.[Li][NH+](C(C)C)C(C)C.CC(C)NC(C)C.[I-] 10,11=11
C[C:11](=[CH:10]C[C:20]12C([OH+:21]1)CCCC2=O)C.C(F)(F)(F)S(=O)(=O)[O-]>>C[C+:11](C)[CH:10]1C[C:20]12C(CCCC2=O)[OH:21].C(F)(F)(F)S(=O)(=O)[O-] 10,11=10,20;20,21=21
CC[SH:10].[CH2:20]=[CH:21][CH:22]=[O:23]>>CC[SH+:10][CH2:20][CH:21]=[CH:22][O-:23] 10=20;22,23=23;20,21=21,22
C1=CC(=CC=C1C[C:20](=[NH2+:21])C2=C(C=C(C=C2O)O)O)O.[OH2:10].CCOCC.OS(=O)(=O)[O-]>>C1=CC(=CC=C1C[C:20](C2=C(C=C(C=C2O)O)O)([NH2:21])[OH2+:10])O.CCOCC.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][CH:21](C1=CC=CC=C1)[C:22](=[O:23])CC(=O)[O-].[NH2-:10]>>[H:20][NH2:10].C1=CC=C(C=C1)[CH:21]=[C:22](CC(=O)[O-])[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)[NH2+]C(=C([N+](=O)[O-])[N+](=O)[O-])N.OS(=O)(=O)[O-:10].C([N+](=O)[O-])[N+](=O)[O-].C(=O)=O>>[H:20][O:10]S(=O)(=O)O.C(=C([N+](=O)[O-])[N+](=O)[O-])(N)[NH2+]C(=O)[O-:21].C([N+](=O)[O-])[N+](=O)[O-].C(=O)=O 10=20;20,21=21
[H:20][OH2+:21].[Li:11][CH:10]=CCC[O-]>>[H:20][CH:10]=CCC[O-].[Li+:11].[OH2:21] 10,11=10,20;20,21=21
[HH].COC1=CC=C(C=C1)C([CH:20](C(=O)OC2CCCCC2C3=CC=CC=C3)[Cl:21])[O-:10].[Na+]>>[HH].COC1=CC=C(C=C1)C2[CH:20](C(=O)OC3CCCCC3C4=CC=CC=C4)[O:10]2.[Na+].[Cl-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2C(=O)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)C1=CC=CC2=C1C=C[CH:22]=[C:21]2[N+](=O)[O-] 10=20;20,21=21,22
CC(=C[CH2:10][OH2+:11])C.CCCCCC1=CC(=CC(=C1)O)O.CCCCCC1=CC(=C(C(=C1)O)CC=C(C)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CC(=C[CH2+:10])C.[OH2:11].CCCCCC1=CC(=CC(=C1)O)O.CCCCCC1=CC(=C(C(=C1)O)CC=C(C)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10,11=11
[H:20][OH+:21]C(C)C.CC(C)O[Al-](OC1CCCCC12CCCCC2=O)(OC(C)C)[O:10]C(C)C>>[H:20][O+:10](C(C)C)[Al-](OC1CCCCC12CCCCC2=O)(OC(C)C)OC(C)C.CC(C)[OH:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)S(=O)(=O)O)Br.[Br-:10]>>[H:20][Br:10].C1=CC2=C(C=C(C=C2)S(=O)(=O)O)[C:21](=[CH:22]1)Br 10=20;20,21=21,22
CC[C:20]#[N:21].CC#[C-:10]>>CC[C:20](=[N-:21])[C:10]#CC 10=20;20,21=21
C1=C(C=C(C(=C1Br)O)Br)C[N+:21]2=[CH:20]N=C3C(=C2N)NC(=O)N3C4C(C(C(O4)CO)O)O.[OH-:10].[Br-]>>C1=C(C=C(C(=C1Br)O)Br)C[N:21]2[CH:20](N=C3C(=C2N)NC(=O)N3C4C(C(C(O4)CO)O)O)[OH:10].[Br-] 10=20;20,21=21
[H:20][O+:21](C(CC1CCCCC1)CC(C)C)S([O-])(Cl)Cl.CC(C)CC(CC1CCCCC1)[OH:10].C1COCCO1>>[H:20][OH+:10]C(CC1CCCCC1)CC(C)C.CC(C)CC(CC1CCCCC1)[O:21]S([O-])(Cl)Cl.C1COCCO1 10=20;20,21=21
[H:20][O+:21]=C1C(C(=C(C(=C1Cl)C)Cl)O)C(C2=C(C(=CC(=C2CC=C(C)C)O)O)C=O)[O-:10]>>[H:20][O:10]C(C1C(=C(C(=C(C1=[O:21])Cl)C)Cl)O)C2=C(C(=CC(=C2CC=C(C)C)O)O)C=O 10=20;20,21=21
[H:20][N+:21]1=CC=CC=C1.C1CCC(CC1)N=C=[N:10]C2CCCCC2.CC1(CCCC2(C1C(C=C(C2(CO)O)CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)C.C[S+](C)[O-].C(=O)(C(F)(F)F)[O-]>>[H:20][N+:10](=C=NC1CCCCC1)C2CCCCC2.C1=CC=[N:21]C=C1.CC1(CCCC2(C1C(C=C(C2(CO)O)CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)C.C[S+](C)[O-].C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
[H:20][OH+:21]C(C)(C)OCC.[OH2:10]>>[H:20][OH2+:10].CCOC(C)(C)[OH:21] 10=20;20,21=21
[H:20][OH+:21]C(=CCCC)OC.[OH2:10]>>[H:20][OH2+:10].CCCC=C([OH:21])OC 10=20;20,21=21
C[CH:20]=[O+:21]C.[F-:10]>>C[CH:20]([O:21]C)[F:10] 10=20;20,21=21
